US07943639B2
4-Piperazin-1-yl-thieno[3,2-c]pyridine-2-sulfonic acid (4-chloro-2,5-dimethoxy-phenyl)amide hydrochloride
The synthesis was preformed essentially as described in Method H-L from 4-[2-(4-chloro-2,5-dimethoxy-phenylsulfamoyl)-thieno[3,2-c]pyridin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.112 mmol, 1 equiv.) was used as the thienopyridine in Method C. Yield: 14.7 mg. LC/MS: tR=0.610 (System: 30% to 60% ACN in 1.5 min, YMC), Purity: 92%. MS: 469 (M+1) 1H NMR (270 MHz, DMSO-d6) δ ppm 3.17 (s, 1H) 3.27 (s, 4H) 3.38 (s, 3H) 3.58 (d, J=4.22 Hz, 4H) 3.77 (s, 3H) 7.08 (s, 1H) 7.69 (d, J=5.81 Hz, 1H) 7.81 (s, 1H) 8.16 (d, J=5.81 Hz, 1H) 9.07 (s, 1H) 10.17 (s, 1H).

reactant | 4-[2-(4-chloro-2,5-dimethoxy-phenylsulfamoyl)-thieno[3,2-c]pyridin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.112 mmol, 1 equiv. | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=C1C=C(S2)S(NC2=C(C=C(C(=C2)OC)Cl)OC)(=O)=O | C24H29ClN4O6S2
reactant | thienopyridine | S1C=CC2=C1C=CC=N2 | C7H5NS
solvent | ACN | C(C)#N | C2H3N
product | 4-Piperazin-1-yl-thieno[3,2-c]pyridine-2-sulfonic acid (4-chloro-2,5-dimethoxy-phenyl)amide hydrochloride | Cl.ClC1=CC(=C(C=C1OC)NS(=O)(=O)C1=CC=2C(=NC=CC2S1)N1CCNCC1)OC | InChI=1S/C19H21ClN4O4S2.ClH/c1-27-15-11-14(16(28-2)10-13(15)20)23-30(25,26)18-9-12-17(29-18)3-4-22-19(12)24-7-5-21-6-8-24;/h3-4,9-11,21,23H,5-8H2,1-2H3;1H
